US04709047
Allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid N-hydroxyimide.
139 g (2 mol) of hydroxylamine hydrochloride are dissolved in 200 ml of water, 408 g (2 mol) of allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid anhydride (prepared according to Example 1 of U.S. Pat. No. 3,105,839) are added to the solution and, with vigorous stirring, 160 g of 50% aqueous NaOH solution are then added dropwise. The mixture is subsequently heated for 1 hour under reflux, the water and traces of oily components are distilled off and the residue is taken up in toluene. The toluene phase is filtered in order to remove the sodium chloride, and the toluene is subsequently removed by rotary evaporation at 150° C. and 2000 Pa, affording 402.6 g of the product (91.5% of theory) as a pale brown viscous liquid with a viscosity of 1.28 Pa.s at 80° C.

reactant | hydroxylamine hydrochloride | 2 mol, 139 g | Cl.NO
reactant | allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid anhydride | 2 mol, 408 g | C(C=C)C12C3C(C(C=C1)C2)C(=O)OC3=O | C12H12O3
reactant | NaOH | 160 g | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | Allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid N-hydroxyimide | 402.6 g, 91.5% | ON=C(O)C1C2(C=CC(C1C(=O)O)C2)CC=C | C12H15NO4
